US09278950B2
Step 8. 3-Amino-N-{4-[(3S)-3-aminopiperidin-1-yl]pyridin-3-yl}-7-ethyl-6-fluoroquinoline-2-carboxamide
To a solution of benzyl [(3S)-1-(3-{[(3-{[(benzyloxy)carbonyl]amino}-6-fluoro-7-vinylquinolin-2-yl)carbonyl]amino}pyridin-4-yl)piperidin-3-yl]carbamate (242.7 mg, 0.3597 mmol) in MeOH (7.00 mL), 10 wt % Pd on carbon (66.7 mg, 0.0627 mmol) was added. The mixture was then stirred at room temperature under hydrogen (1 atm.) for 15 h. The reaction mixture was filtered through a pad of diatomaceous earth (eluted with MeOH) and was then concentrated under reduced pressure. The resulting residue was purified using RP-HPLC (XBridge™ C18 column, eluting with a gradient of MeCN/water containing 0.1% NH4OH, at a flow rate of 30 mL/min.) to give the title compound as a yellow solid (20.2 mg, 14%). LCMS calc. for C22H26FN6O (M+H)+: m/z=409.2. found 409.2. 1H NMR (500 MHz, DMSO-d6) δ 9.38 (s, 1H), 8.28 (d, J=5.2 Hz, 1H), 7.73 (d, J=7.5 Hz, 1H), 7.53-7.44 (m, 2H), 7.17 (d, J=5.2 Hz, 1H), 6.95 (s, 2H), 3.56-3.13 (m, 2H), 3.13-3.01 (m, 1H), 2.82-2.67 (m, 3H), 2.55 (m, J=9.6 Hz, 1H), 2.03-1.94 (m, 1H), 1.94-1.79 (m, 2H), 1.37-1.32 (m, 1H), 1.29 (t, J=7.5 Hz, 3H) ppm.

reactant | benzyl [(3S)-1-(3-{[(3-{[(benzyloxy)carbonyl]amino}-6-fluoro-7-vinylquinolin-2-yl)carbonyl]amino}pyridin-4-yl)piperidin-3-yl]carbamate | 0.3597 mmol, 242.7 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=C(C=C2C1)F)C=C)C(=O)NC=1C=NC=CC1N1C[C@H](CCC1)NC(OCC1=CC=CC=C1)=O | C38H35FN6O5
solvent | MeOH | 7.00 mL | CO | CH4O
catalyst | Pd on carbon | 0.0627 mmol, 66.7 mg | [Pd] | Pd
product | 3-Amino-N-{4-[(3S)-3-aminopiperidin-1-yl]pyridin-3-yl}-7-ethyl-6-fluoroquinoline-2-carboxamide | 20.2 mg, 14% | NC=1C(=NC2=CC(=C(C=C2C1)F)CC)C(=O)NC=1C=NC=CC1N1C[C@H](CCC1)N | C22H25FN6O
